US07705042B2
a) 2-Chloro-4-(4-methyl-piperidin-1-yl)-5-nitro-pyrimidine
To a solution of 2,4-dichloro-5-nitropyrimidine (194 mg, 1.00 mmol) in THF (10 mL) at −40° C., 4-methylpiperidine (118 μL, 1.00 mmol) was added dropwise. The resulting mixture was stirred at −40° C. for 3 h and the solvent was removed in vacuo. The resulting yellow residue was chromatographed on silica (5-20% EtOAc:hexane) to obtain the title compound (103 mg, 40%). 1H-NMR (CDCl3; 400 MHz): δ 8.69 (s, 1H), 4.24 (br m, 2H), 3.10 (m, 2H, J=12.9, 2.7 Hz), 1.82-1.71 (m, 3H), 1.36-1.25 (m, 2H), 1.01 (d, 3H, J=4.8 Hz).

reactant | 2,4-dichloro-5-nitropyrimidine | 1.00 mmol, 194 mg | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | 4-methylpiperidine | 1.00 mmol, 118 μL | CC1CCNCC1 | C6H13N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-Chloro-4-(4-methyl-piperidin-1-yl)-5-nitro-pyrimidine | 103 mg, 40% | ClC1=NC=C(C(=N1)N1CCC(CC1)C)[N+](=O)[O-] | C10H13ClN4O2
